US07235574B2
1-[4-(4-{2-[(E)-2-(-4-Pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole
25.0 mg (1.00 mmol) 95% sodium hydride were given to a solution of 217 mg (1.00 mmol) 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol in 3.0 ml DMF and stirred for 30 min. 346 mg (1.00 mmol) 4-chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole were added and stirring continued at r.t. for 24 h. After cautious addition of 10 ml water the mixture was diluted to 60 ml by further addition of water and stirred for 30 min. The resulting precipitate was washed with 3×10 ml water, 2×10 ml methanol/water, diethyl ether and dried to yield 440 mg (84%) of the title compound.

reactant | sodium hydride | 1.00 mmol, 25.0 mg | [H-].[Na+]
reactant | 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol | 1.00 mmol, 217 mg | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | 4-chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole | 1.00 mmol, 346 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(F)(F)(F)(F)F | C12H9ClF5NOS
reactant | water | 10 ml | O | H2O
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | 1-[4-(4-{2-[(E)-2-(-4-Pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole | 440 mg, 84% | FS(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC=C1)(F)(F)(F)F | C24H23F5N4O2S
